US04882346
1,5-bis(2-oxo-1-piperidinyl)hexane
To a 50% oil suspension of sodium hydride (3.16 grams, 65 mmol) in 60 mL dry DMF under nitrogen was added 6.53 grams (65 mmol) of delta-valerolactam. The mixture was stirred overnight. Then, 4.0 grams (16.3 mmol) of 1,6-dibromohexane was added, and the mixture was stirred for an additional six hours. Two hundred mL of water was added, and the aqueous phase was extracted with chloroform. The organic layer was washed with water and dried over magnesium sulfate, and the solvent was removed in vacuo. Fractional distillation afforded 1.9 gram (41%) of pure material as an oil, boiling point 160° C. (0.1 torr).

reactant | sodium hydride | 65 mmol, 3.16 grams | [H-].[Na+]
reactant | delta-valerolactam | 65 mmol, 6.53 grams | C1(CCCCN1)=O | C5H9NO
reactant | 1,6-dibromohexane | 16.3 mmol, 4.0 grams | BrCCCCCCBr | C6H12Br2
reactant | water | Two hundred mL | O | H2O
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | 1,5-bis(2-oxo-1-piperidinyl)hexane | 1.9 gram, 41% | O=C1N(CCCC1)CCCCC(C)N1C(CCCC1)=O | C16H28N2O2
